US04410716
A solution of 3.8 g of 2-(4-carboxymethylbenzoyl)phenylacetic acid in 15 ml of methanol was added to 9.0 g of zinc amalgam, 17.5 ml of conc. hydrochloric acid and 7.5 ml of water. The mixture was heated under reflux for 5 hours with stirring. After the reaction, the reaction mixture was cooled, and the zinc amalgam was removed by decantation. Water (100 ml) was added, and the mixture was extracted with ether. The ethereal layer was washed with a saturated aqueous solution of sodium chloride. The ether was distilled off to afford a yellow oily product. Methanol (20 ml) was added to dissolve it. Then, 60 ml of a 10% sodium hydroxide solution was added to the solution, and the solution was heated under reflux for 3 hours with stirring. After the reaction, the reaction mixture was cooled, acidified with conc. hydrochloric acid, and extracted with ether. The ethereal layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The ether was then distilled off. The residue was chromatographed on a silica gel column using a mixture of chloroform and methanol (95:5) as an eluent. A solid was obtained from the eluate. Recrystallization from ether afforded 1.67 g of 2-(4-carboxymethylbenzyl)phenylacetic acid as colorless plate-like crystals having a melting point of 155° to 156° C.

reactant | 2-(4-carboxymethylbenzoyl)phenylacetic acid | 3.8 g | C(=O)(O)CC1=CC=C(C(=O)C2=C(C=CC=C2)CC(=O)O)C=C1 | C17H14O5
reactant | hydrochloric acid | 17.5 ml | Cl | ClH
reactant | water | 7.5 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | Methanol | 20 ml | CO | CH4O
product | 2-(4-carboxymethylbenzyl)phenylacetic acid | 1.67 g | C(=O)(O)CC1=CC=C(CC2=C(C=CC=C2)CC(=O)O)C=C1 | C17H16O4
